US07528129B2
25e) methyl(R)-3-[3-bromo-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-2-hydroxy-propionate
6.7 mL (39.1 mmol) ethyldiisopropylamine were added to a solution of 10.2 g (34.6 mmol) methyl(R)-3-(3-bromo-4-hydroxy-phenyl)-2-hydroxy-propionate in 100 mL DCM and the reaction mixture was cooled in the ice bath. Then a solution of 7.9 mL (44.6 mmol) (2-chloromethoxy-ethyl)-trimethyl-silane in 20 mL DCM was added. The reaction mixture was stirred for 3 h at RT and then combined with another 0.67 mL ethyldiisopropylamine and 0.8 mL (4.5 mmol) (2-chloromethoxy-ethyl)-trimethyl-silane to complete the reaction and stirred for 1.5 h at RT. The reaction mixture was washed with 5% Na2CO3 solution and saturated NaCl solution and dried over Na2SO4. After the desiccant and solvent had been eliminated the residue was purified by chromatography (silica gel, Cyc/EtOAc 75:25).

reactant | ethyldiisopropylamine | 39.1 mmol, 6.7 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl(R)-3-(3-bromo-4-hydroxy-phenyl)-2-hydroxy-propionate | 34.6 mmol, 10.2 g | BrC=1C=C(C=CC1O)C[C@H](C(=O)OC)O | C10H11BrO4
reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 44.6 mmol, 7.9 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
reactant | ethyldiisopropylamine | 0.67 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (2-chloromethoxy-ethyl)-trimethyl-silane | 4.5 mmol, 0.8 mL | ClCOCC[Si](C)(C)C | C6H15ClOSi
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | methyl(R)-3-[3-bromo-4-(2-trimethylsilanyl-ethoxymethoxy)-phenyl]-2-hydroxy-propionate | BrC=1C=C(C=CC1OCOCC[Si](C)(C)C)C[C@H](C(=O)OC)O | C16H25BrO5Si
